US08563577B2
2-(3-Fluorophenylamino)-2-phenylacetic acid hydrochloride (I40) (1.34 g, 4.74 mmol), (R)-quinuclidin-3-ol (3.01 g, 23.7 mmol), DCC (1.95 g, 9.47 mmol), and HOBt (1.45 g, 9.47 mmol) were dissolved in THF (60 ml). The reaction was stirred at room temperature overnight. The solvent was evaporated, and the crude product was taken up with EtOAc and washed with NaHCO3 and then with brine. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (DCM/MeOH=9/1) to give (R)-quinuclidin-3-yl 2-(3-fluorophenylamino)-2-phenylacetate (1.17 g, 68.9% yield).

reactant | 2-(3-Fluorophenylamino)-2-phenylacetic acid hydrochloride | 4.74 mmol, 1.34 g | Cl.FC=1C=C(C=CC1)NC(C(=O)O)C1=CC=CC=C1
reactant | (R)-quinuclidin-3-ol | 23.7 mmol, 3.01 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 9.47 mmol, 1.95 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 9.47 mmol, 1.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(3-fluorophenylamino)-2-phenylacetate | 1.17 g, 68.9% yield | FC=1C=C(C=CC1)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H23FN2O2
